US05707991
A The reaction is carried out in a way analogous to that described in Example 2B but from 1.7 g of tert-butyl (2RS,4RS,5SR)-4-dimethylcarbamoyl-5-phenylpyrrolidine-2-carboxylate, 1.15 g of 2-[3-(3-methylphenyl)ureido]acetic acid and 1.15 g of N,N'-dicyclohexylcarbodiimide in 50 cm3 of acetonitrile. After treatment, there are obtained 2.2 g of tert-butyl (2RS,4RS,5SR)-4-dimethylcarbamoyl-1-{2-[3-(3-methylphenyl)ureido]acetyl}-5-phenylpyrrolidine-2-carboxylate, melting at 199° C.

reactant | tert-butyl (2RS,4RS,5SR)-4-dimethylcarbamoyl-5-phenylpyrrolidine-2-carboxylate | 1.7 g | CN(C(=O)C1CC(NC1C1=CC=CC=C1)C(=O)OC(C)(C)C)C | C18H26N2O3
reactant | 2-[3-(3-methylphenyl)ureido]acetic acid | 1.15 g | CC=1C=C(C=CC1)NC(NCC(=O)O)=O | C10H12N2O3
reactant | N,N'-dicyclohexylcarbodiimide | 1.15 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | acetonitrile | 50 cm3 | C(C)#N | C2H3N
product | tert-butyl (2RS,4RS,5SR)-4-dimethylcarbamoyl-1-{2-[3-(3-methylphenyl)ureido]acetyl}-5-phenylpyrrolidine-2-carboxylate | 2.2 g | CN(C(=O)C1CC(N(C1C1=CC=CC=C1)C(CNC(=O)NC1=CC(=CC=C1)C)=O)C(=O)OC(C)(C)C)C | C28H36N4O5
